US08440658B2
To a solution of (R)-4-allyl-1-((S)-3,3-dimethylbutan-2-yl)-4-(4-fluorophenyl)tetrahydropyrimidin-2(1H)-one (100 mg, 0.31 mmol) in THF (3 mL) was added BH3 THF (1 mL, 1 mol/L) at 0° C. under nitrogen atmosphere. The formed mixture was stirred for 2 h. The reaction was quenched with water. Aqueous NaOH solution (3 mol/L, 0.2 mL) and H2O2 (30%, 0.2 mL) were added and the resulting mixture was stirred for 1.5 h. The mixture was extracted with ethyl acetate and the combined organic phase was concentrated to give the crude product, which was purified by preparative TLC to give (R)-1-((S)-3,3-dimethylbutan-2-yl)-4-(4-fluorophenyl)-4-(3-hydroxypropyl)tetrahydropyrimidin-2(1H)-one (12 mg, 12%). 1H NMR (CDCl3): 0.73 (s, 3H), 1.04 (d, 3H), 1.29 (m, 1H), 1.48 (m, 1H), 1.81-2.07 (m, 4H), 2.46 (s, 1H), 2.57 (m, 1H), 3.07 (m, 1H), 3.58 (m, 1H), 4.46 (m, 1H), 5.93 (s, 1H), 6.98-7.03 (m, 2H), 7.29 (m, 2H).

reactant | (R)-4-allyl-1-((S)-3,3-dimethylbutan-2-yl)-4-(4-fluorophenyl)tetrahydropyrimidin-2(1H)-one | 0.31 mmol, 100 mg | C(C=C)[C@]1(NC(N(CC1)[C@@H](C)C(C)(C)C)=O)C1=CC=C(C=C1)F | C19H27FN2O
reactant | THF | 3 mL | C1CCOC1 | C4H8O
reactant | THF | 1 mol/L, 1 mL | C1CCOC1 | C4H8O
product | (R)-1-((S)-3,3-dimethylbutan-2-yl)-4-(4-fluorophenyl)-4-(3-hydroxypropyl)tetrahydropyrimidin-2(1H)-one | 12 mg, 12% | CC([C@H](C)N1C(N[C@@](CC1)(CCCO)C1=CC=C(C=C1)F)=O)(C)C | C19H29FN2O2
